US07799822B2
Prepared using general procedure 62: To chlorosulfonic acid (15 mL, 220 mmol) at 0° C. under N2 was added (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-phenylpyrrolidin-2-one (2.43 g, 7.4 mmol) in portions. The reaction mixture was heated to 50° C. for 15 min. and, after cooling to RT, carefully poured onto ice-water (500 mL). EtOAc (150 mL) was added, the phases were separated, and the aqueous layer was extracted with EtOAc (2×150 mL). The combined organic extracts were dried over MgSO4 and concentrated. Purification via silica gel chromatography using 50-80% EtOAc in hexane gave 4-((S)-3-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-benzene-1-sulfonyl chloride as an off-white solid (1.92 g, 61%). 1H NMR (400 MHz, DMSO-d6) δ 7.66 (dd, J=2.1, 6.8 Hz, 2H), 7.61 (dd, J=2.1, 6.8 Hz, 2H), 6.99 (d, J=9.0 Hz, 2H), 6.77 (d, J=8.7 Hz, 1H), 5.01-4.96 (m, 1H), 3.85-3.81 (m, 2H), 3.17 (t, J=5.6 Hz, 2H), 2.70 (t, J=6.4 Hz, 2H), 2.42-2.32 (m, 1H), 2.15-2.08 (m, 1H), 1.92-1.79 (m, 2H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=425.1; tR=4.03 min

reactant | chlorosulfonic acid | 220 mmol, 15 mL | ClS(=O)(=O)O | ClHO3S
reactant | (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-phenylpyrrolidin-2-one | 7.4 mmol, 2.43 g | ClC=1C=C2CCCN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C19H19ClN2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 4-((S)-3-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-benzene-1-sulfonyl chloride | 1.92 g, 61% | ClC=1C=C2CCCN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C19H18Cl2N2O3S
